US07470705B2
Step 3. Preparation of (+/−)-cis-4-Amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Heat at 80° C. a solution of (+/−)-cis-4-acetylamino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (100 mg, 0.298 mmol) in 5 N HCl (1 mL) for 4 h. Cool the reaction mixture to room temperature, pour the crude onto a saturated solution of sodium carbonate and extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure, to afford the title compound (85 mg, 98%). MS (ES+): 277 (M−NH2).

reactant | (+/−)-cis-4-acetylamino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.298 mmol, 100 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)NC(C)=O)CC | C17H25N3O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | HCl | 5 N, 1 mL | Cl | ClH
product | (+/−)-cis-4-Amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 85 mg, 98% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)N)CC | C15H23N3O3
